US07741329B2
2-[((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile
1-{(S)-2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-piperidin-1-yl}-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone (0.35 g) in N-methylpyrrolidinone (10 ml) containing copper(I)cyanide (0.13 g) was heated to reflux for 5 h. The reaction mixture was diluted with water, filtered (Kieselguhr) and the filtrate extracted with ethyl acetate. The ethyl acetate phase was washed with water and brine, dried (MgSO4), filtered and solvent removed at reduced pressure. The residue was column chromatographed (silica gel; ethyl acetate:pentane 1:1→ethyl acetate eluant), the appropriate fractions combined and solvent removed at reduced pressure to give the title compound (0.019 g).

reactant | 1-{(S)-2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-piperidin-1-yl}-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone | 0.35 g | BrC=1C=NC(=NC1)NC[C@H]1N(CCCC1)C(=O)C1=NN(C=C1C1=CC=C(C=C1)F)C | C21H22BrFN6O
reactant | copper(I)cyanide | 0.13 g | [Cu]C#N
solvent | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-[((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | 0.019 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1[C@@H](CCCC1)CNC1=NC=C(C=N1)C#N | C22H22FN7O
